US07326447B2
190 g (0.600 mol) of 4-bromo-2-fluoro-1-iodobenzene and 65.3 ml of 1-pentyne were dissolved in a mixture of 900 ml of THF and 1.2 l of triethylamine and cooled to 10° C., and 1.14 g (6 mmol) of copper(I) iodide and 8.42 g (12 mmol) of bis(triphenylphosphine)palladium(II) chloride were added. The batch was stirred overnight at room temperature, water and MTB ether were subsequently added, and the mixture was stirred for a further 5 minutes. The reaction mixture was filtered through Celite® with suction, and the phases were separated. The aqueous phase was extracted twice with MTB ether, and the combined organic phases were washed three times with water, dried over sodium sulfate and evaporated under reduced pressure. The crude product was filtered through silica gel with n-heptane, giving 129 g of 4-bromo-2-fluoro-1-pent-1-ynylbenzene as a yellow liquid. Hydrogenation on palladium/activated carbon (10%) in THF gave 131 g (100%) of 4-bromo-2-fluoro-1-pentylbenzene as a yellow liquid.

reactant | 4-bromo-2-fluoro-1-iodobenzene | 0.600 mol, 190 g | BrC1=CC(=C(C=C1)I)F | C6H3BrFI
reactant | 1-pentyne | 65.3 ml | C#CCCC | C5H8
reactant | water | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | THF | 900 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 1.2 l | C(C)N(CC)CC | C6H15N
catalyst | copper(I) iodide | 6 mmol, 1.14 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 12 mmol, 8.42 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-bromo-2-fluoro-1-pent-1-ynylbenzene | 129 g | BrC1=CC(=C(C=C1)C#CCCC)F | C11H10BrF
